US05284956
0.078 mol of anhydrous sodium sulfate and 0.086 mol of piperidine were mixed and treated dropwise at -5° C. under nitrogen with 0.039 mol of trans-4-propylcyclohexylacetaldehyde. The reaction mixture was stirred at room temperature for 24 hours. Subsequently the precipitate was filtered off and washed with hexane. Distillation of the combined filtrates under a vacuum gave 1-[2-(trans-4-propylcyclohexyl)vinyl]piperidine of b.p. 118°-120° C./1 Torr in 75% yield.

reactant | sodium sulfate | 0.078 mol | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | piperidine | 0.086 mol | N1CCCCC1 | C5H11N
reactant | trans-4-propylcyclohexylacetaldehyde | 0.039 mol | C(CC)[C@@H]1CC[C@H](CC1)CC=O | C11H20O
product | 1-[2-(trans-4-propylcyclohexyl)vinyl]piperidine | 75% yield | C(CC)[C@@H]1CC[C@H](CC1)C=CN1CCCCC1 | C16H29N
